US09102682B2
tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-2-methyl-propyl]carbamate was synthesized using 5-bromo-2,4-dichloro-pyrimidine and tert-butyl N-(2-amino-2-methyl-propyl)carbamate using analogous reaction conditions as described for tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate. LCMS (ESI) 379 (M+H).

reactant | 5-bromo-2,4-dichloro-pyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-(2-amino-2-methyl-propyl)carbamate | NC(CNC(OC(C)(C)C)=O)(C)C | C9H20N2O2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
product | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-2-methyl-propyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)(C)C | C13H20BrClN4O2
